US09108938B2
N-[2-(4-Methoxy-phenyl)-2-piperidin-1-yl-ethyl]-2-methyl-benzamide
From 2-methylbenzoic acid and 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine.

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine | COC1=CC=C(C=C1)C(CN)N1CCCCC1 | C14H22N2O
product | N-[2-(4-Methoxy-phenyl)-2-piperidin-1-yl-ethyl]-2-methyl-benzamide | COC1=CC=C(C=C1)C(CNC(C1=C(C=CC=C1)C)=O)N1CCCCC1 | C22H28N2O2
